US07491743B2
To a stirred solution of 7-hydroxyindole and potassium carbonate (325 mg, 2.35 mmol) in methyl ethyl ketone (2.4 mL) was added iodobutane (1.24 mL, 10.8 mmol) at room temperature. After the mixture was heated at 55° C. for 12 h the solvent was removed and water was added. The mixture was extracted with EtOAc (3 times), dried over anhydrous MgSO4, filtered and evaporated. After chromatographic purification on silica gel, 7-n-butoxyindole was obtained in 90% yield (310 mg). 1H NMR (500 MHz, CDCl3) δ 8.39 (1H, brs), 7.23 (1H, d, J=8.0 Hz, 7.17 (1H, t, J=3.0 Hz), 7.01 (1H, t, J=7.5 Hz), 6.63 (1H, d, J=7.0 Hz), 6.53 (1H, t, J=2.5 Hz), 4.14 (2H, t, J=5.2 Hz), 1.88-1.80 (2H, m), 1.59-1.50 (2H, m), 1.00 (3H, t, J=7.0 Hz).

reactant | 7-hydroxyindole | OC=1C=CC=C2C=CNC12 | C8H7NO
reactant | potassium carbonate | 2.35 mmol, 325 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodobutane | 10.8 mmol, 1.24 mL | ICCCC | C4H9I
solvent | methyl ethyl ketone | 2.4 mL | C(C)C(=O)C | C4H8O
product | 7-n-butoxyindole | 90% yield | C(CCC)OC=1C=CC=C2C=CNC12 | C12H15NO
